US07700638B2
7-(N-benzylideneamino)-1-phenyl-5-trifluoromethylbenzimidazole
To a solution of 7-amino-1-phenyl-5-trifluoromethylbenzimidazole (0.50 g, 1.81 mmol) in anhydrous toluene (10 ml) was added benzaldehyde, p-toluenesulphonic acid (10 mg) and molecular sieves. The resultant mixture was stirred at reflux for 1.5 hours. The molecular sieves were removed by filtration and the filtrate was concentrated under reduced pressure. The concentrate was partitioned between aqueous sodium carbonate (2M) and ethyl acetate. The organic phase was dried and concentrated, and the concentrate was eluted through silica gel with a mixture of ethyl acetate and ligroin (1:1 v/v). Removal of solvent from the eluate left the desired product as a yellow solid (0.37 g, 56%) m/z, 366.1 (M+H)+.

reactant | 7-amino-1-phenyl-5-trifluoromethylbenzimidazole | 1.81 mmol, 0.50 g | NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H10F3N3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(N-benzylideneamino)-1-phenyl-5-trifluoromethylbenzimidazole | C(C1=CC=CC=C1)=NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C21H14F3N3
